US07183306B2
Carbonyldiimidazole (1.26 g) was added to a solution of 5-[4-(benzyloxy)phenyl]-1-(4-methoxyphenyl)-3-amino-1H-pyrazole (2.4 g) in 1-methyl-2-pyrrolidinone (22 ml). After stirring at ambient temperature for 2 hour, 2M solution of dimethylamine in THF (7.4 ml) was added and the mixture was stirred ambient temperature for 2 hour. The reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=80% to give N′-[5-[4-(benzyloxy)phenyl]-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea (2.35 g) as amorphous powder.

reactant | Carbonyldiimidazole | 1.26 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-[4-(benzyloxy)phenyl]-1-(4-methoxyphenyl)-3-amino-1H-pyrazole | 2.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)N | C23H21N3O2
reactant | dimethylamine | CNC | C2H7N
solvent | 1-methyl-2-pyrrolidinone | 22 ml | CN1C(CCC1)=O | C5H9NO
solvent | THF | 7.4 ml | C1CCOC1 | C4H8O
product | N′-[5-[4-(benzyloxy)phenyl]-1-(4-methoxyphenyl)-1H-pyrazol-3-yl]-N,N-dimethylurea | 2.35 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)NC(N(C)C)=O | C26H26N4O3
